US06638646B2
184.4 g (1.48 mol) of p-methoxyphenol, 275.9 g (1.56 mol, 1.05 eq) of 3,7-dimethyl-1-octyl chloride, 106.9 g of KOH (85% strength, 1.62 mol, 1.09 eq) and 15.04 g of sodium iodide were dissolved in 620 ml of dry ethanol in a 2 l four-necked round-bottomed flask fitted with dropping funnel, high-efficiency condenser, gas outlet and magnetic stirrer bar, and heated at the boil for 64 hours with magnetic stirring. The mixture was cooled to room temperature, and the reaction solution was decanted off from the solid formed. The reaction solution was evaporated in a rotary evaporator. The solid was taken up in 400 ml of 10% strength aqueous NaOH solution. This solution was extracted twice with 400 ml of toluene each time. The organic phases were combined, washed with 100 ml of 10% strength aqueous NaOH solution and dried using Na2SO4. The solvent was distilled off under reduced pressure in a rotary evaporator. The residue was distilled under reduced pressure (1 mbar, head temperature: 159-162° C.), giving 372.4 g (1.41 mol, 95%) of 1-methoxy-4-(3,7-dimethyloctyloxy)benzene as a colorless oil.

reactant | p-methoxyphenol | 1.48 mol, 184.4 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 3,7-dimethyl-1-octyl chloride | 1.56 mol, 275.9 g, 1.05 eq | CC(CCCl)CCCC(C)C | C10H21Cl
reactant | KOH | 1.62 mol, 106.9 g, 1.09 eq | [OH-].[K+]
solvent | ethanol | 620 ml | C(C)O | C2H6O
catalyst | sodium iodide | 15.04 g | [I-].[Na+]
product | 1-methoxy-4-(3,7-dimethyloctyloxy)benzene | 1.41 mol, 372.4 g, 95% | COC1=CC=C(C=C1)OCCC(CCCC(C)C)C | C17H28O2
